US08076515B2
(S)-2-[4-(2-Fluorobenzyloxy)benzylamino]propanamide is prepared in a 93% yield from (S)-2-[4-(2-fluorobenzyloxy)benzylideneamino]propanamide by following the same procedure of Example 8, step b). The content of (S)-2-[3-(2-fluorobenzyl)-4-(2-fluorobenzyloxy)-benzylamino]propanamide is 0.02% by weight determined by HPLC (see Example 17B).

reactant | (S)-2-[4-(2-fluorobenzyloxy)benzylideneamino]propanamide | FC1=C(COC2=CC=C(C=N[C@H](C(=O)N)C)C=C2)C=CC=C1 | C17H17FN2O2
reactant | (S)-2-[3-(2-fluorobenzyl)-4-(2-fluorobenzyloxy)-benzylamino]propanamide | FC1=C(CC=2C=C(CN[C@H](C(=O)N)C)C=CC2OCC2=C(C=CC=C2)F)C=CC=C1 | C24H24F2N2O2
product | (S)-2-[4-(2-Fluorobenzyloxy)benzylamino]propanamide | 93% yield | FC1=C(COC2=CC=C(CN[C@H](C(=O)N)C)C=C2)C=CC=C1 | C17H19FN2O2
